### PR TITLE
[Merged by Bors] - feat(Topology/Algebra/Valued/NormedValued): add lemmas for `Valued.toNormedField`

### PR DESCRIPTION
**Pull request by jjdishere**
Add simp lemmas for `Valued.toNormedField`. Prove `isNonarchimedean` for this norm. Add definition `Valued.toNontriviallyNormedField`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Valued/NormedValued.lean [hunk 1]
```diff
@@ -139,6 +139,48 @@ def toNormedField : NormedField L :=
...
             lt_of_lt_of_le hab (min_le_right _ _)⟩ }
 
+variable {L} {Γ₀}
+
+namespace toNormedField
+
+@[simp]
+theorem norm_le_iff {x x' : L} :
+    let _ := val.toNormedField
+    ‖x‖ ≤ ‖x'‖ ↔ val.v x ≤ val.v x' := (Valuation.RankOne.strictMono val.v).le_iff_le
```
Comment (mbkybky) [inline Mathlib/Topology/Algebra/Valued/NormedValued.lean:149]: I think these lemmas can be put after `scoped[Valued] attribute [instance] Valued.toNormedField`, so that it is no need to write `let _ := val.toNormedField`.

File: Mathlib/Topology/Algebra/Valued/NormedValued.lean [hunk 2]
```diff
@@ -160,4 +202,23 @@ lemma coe_valuation_eq_rankOne_hom_comp_valuation : ⇑NormedField.valuation = h
...
 end NormedField
 
+/--
+The nontrivially normed field structure determined by a rank one valuation.
+-/
+def toNontriviallyNormedField: NontriviallyNormedField L := {
+  val.toNormedField with
+  non_trivial := by
+    obtain ⟨x, hx⟩ := Valuation.RankOne.nontrivial val.v
+    have : x ≠ 0 := val.v.ne_zero_iff.mp hx.1
```
Comment (mbkybky) [inline Mathlib/Topology/Algebra/Valued/NormedValued.lean:212]: It seems that this line is unnecessary.
```suggestion
```

**Review by mbkybky — APPROVED** [review]

File: Mathlib/Topology/Algebra/Valued/NormedValued.lean (hunk 1 above)
Comment (jjdishere) [reply Mathlib/Topology/Algebra/Valued/NormedValued.lean:149]: Thank you!

File: Mathlib/Topology/Algebra/Valued/NormedValued.lean (hunk 2 above)
Comment (jjdishere) [reply Mathlib/Topology/Algebra/Valued/NormedValued.lean:212]: Thank you! Golfed.

**Review by jcommelin — COMMENTED** [review]
maintainer merge

File: Mathlib/Topology/Algebra/Valued/NormedValued.lean [hunk 3]
```diff
@@ -160,4 +160,52 @@ lemma coe_valuation_eq_rankOne_hom_comp_valuation : ⇑NormedField.valuation = h
...
+@[simp]
+theorem norm_lt_one_iff {x : L} : ‖x‖ < 1 ↔ val.v x < 1 := by
+  simpa only [_root_.map_one] using (Valuation.RankOne.strictMono val.v).lt_iff_lt (b := 1)
+
+@[simp]
+theorem one_le_norm_iff {x : L} : 1 ≤ ‖x‖ ↔ 1 ≤ val.v x := by
+  simpa only [_root_.map_one] using (Valuation.RankOne.strictMono val.v).le_iff_le (a := 1)
+
+@[simp]
+theorem one_lt_norm_iff {x : L} : 1 < ‖x‖ ↔ 1 < val.v x := by
```
Comment (riccardobrasca) [inline Mathlib/Topology/Algebra/Valued/NormedValued.lean:188]: You can have a `variable {x : L}` line.

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Topology/Algebra/Valued/NormedValued.lean (hunk 3 above)
Comment (jjdishere) [reply Mathlib/Topology/Algebra/Valued/NormedValued.lean]: Thanks! Golfed.
